US07576215B2
N-[(1-ACETYL-1H-INDOL-3-YL)METHYL]-3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]ANILINE
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 1-acetyl-1H-indole-3-carbaldehyde according to the procedure of Example 66. MS (ES) m/z 550.0.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 1-acetyl-1H-indole-3-carbaldehyde | C(C)(=O)N1C=C(C2=CC=CC=C12)C=O | C11H9NO2
product | N-[(1-ACETYL-1H-INDOL-3-YL)METHYL]-3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]ANILINE | C(C)(=O)N1C=C(C2=CC=CC=C12)CNC1=CC(=CC=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)CC1=CC=CC=C1 | C34H26F3N3O
